2104-12-14 15:04:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Pt. known to MICU service from 2 prior recent MICU transfers during
   present hospitalization.  Most recently transferred back to medical
   [**Hospital1 **] [**2104-12-12**].
   Currently returns for marked hypoxemia, malaise, significant cough
   (non-productive) and persistent respiratory distress.  Awakened this AM
   with malaise, fatigue but no chest pain.  ABG= 7.46/38/65.  Hypoxemia
   requred increased FIO2 by face mask with good effect.  Scheduled for
   repeat CT angio and transfer back to MICU service for additional
   evaluation and management.
   Upon arrival to MICU, states to feel improved.  Good SaO2 on NC.
   Noted to have new skin rash -- erythematous macular-papular rash over
   trunk/back.  Non-prurutic.
   Denies increased cough, sputum, hemoptysis, chest pain, pleurisy.
   Denies abd pain, back pain.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Penicillin V Potassium
   Pruritis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence, Appears depressed
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2104-12-14**] 03:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 104 (97 - 106) bpm
   BP: 110/66(77) {110/66(77) - 129/78(90)} mmHg
   RR: 14 (14 - 25) insp/min
   SpO2: 93%
   Wgt (current): 76 kg (admission): 78.8 kg
   Height: 78 Inch
             Total In:
             35 mL
   PO:
             TF:
   IVF:
   35 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                     35 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Chronically ill
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous:
   scattered)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, Rash: macular-papular erythematous rash over trunk, No(t)
   Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.9 g/dL
   296 K/uL
   90 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.4 mEq/L
   12 mg/dL
   107 mEq/L
   141 mEq/L
   34.5 %
   11.4 K/uL
        [image002.jpg]
                            [**2104-12-5**]  12:43 PM
                            [**2104-12-6**]  03:02 AM
                            [**2104-12-7**]  04:01 AM
                            [**2104-12-10**]  05:10 AM
                             [**2104-12-11**]  06:02 AM
   WBC
   10.3
   5.8
   6.8
   12.4
   11.4
   Hct
   34.7
   33.5
   33.5
   35.2
   34.5
   Plt
   [**Telephone/Fax (3) 3174**]03
   296
   Cr
   1.3
   1.1
   1.0
   1.0
   0.9
   Glucose
   90
   105
   104
   100
   90
   Other labs: Differential-Neuts:81.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:9.0 %, Eos:4.0 %, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Imaging: CT angio with no evidence for PE.  However, interval
   development of multiple densities, LLL >> RLL and mid lung zones.
   Assessment and Plan
   HYPOXEMIA -- attributed to new pneumonia on background of RSV
   infection.   No evidence for pulmonary embolism by today's CT scan.
   Evidence for new pulmonary infiltrates on right and left upper lobes
   --> possibly representing new infection or process (ex. PcP or other
   fungal infection), progression of underlying infection, complication of
   medications (ex. related to rash, related to antibody administration).
   Plan continue supplimental oxygen, monitor RR, maintain SaO2 > 90%,
   continue empirical antimicrobials.  Provide beta-agonist.  Check on
   next scheduled PcP prophylaxis Would check LE NIVS to assess for DVT.
   Check beta-galactomannan.  Consider bronchoscopy, although would
   require intubation to perform procedure safely.  Low threshold for
   intubation in event of clinical decline.
   PNEUMONIA (HAP) -- clinical variability on current regimen.  Doubt OI.
   Consider bronchoscopic investigation.  Continue current level of care.
   Interval development of multiple pulmonary infiltates  may represent
   aspiration or atuypical pneuonia, but may also represent process such
   as right-sided endovascular infeciton (ex. endocarditis, line-related
   infection).  Check blood cultures, consider repeat echo.
   RSV infection -- s/p antibody treatment.
   Cough -- attributed to RSV and HAP.  Improving.
   RASH -- new development;  appears drug-related, and currently receiving
   several potential offenders, including contrast dye (CT angio).
   CML s/p SCT c/b GVHD
 continue current level of care.
   GI GVHD -- continue oral swish and spit.
   NUTRITIONAL SUPPORT
 encourage PO with suppliments.
   DEPRESSED MOOD -- consider pharmacological  intervention.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2104-12-14**] 10:58 AM
   20 Gauge - [**2104-12-14**] 10:59 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2104-12-15 05:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2104-12-14**] 10:58 AM
 BLOOD CULTURED - At [**2104-12-14**] 04:45 PM
   1x1 . Sample drawn from Hickmann
   Antibiotic regimen changed to Linezolid/Aztreonam per ID
   recommendations; also on Cipro.
   No other overnight events; pt continue to be on 6L NC.  Not complaining
   of worsening cough or SOB.  Rash appears worse but non-pruritic.
   Allergies:
   Penicillin V Potassium
   Pruritis;
   Last dose of Antibiotics:
   Aztreonam - [**2104-12-15**] 12:20 AM
   Linezolid - [**2104-12-15**] 04:00 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2104-12-14**] 08:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-15**] 05:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.7
C (98
   HR: 88 (84 - 108) bpm
   BP: 92/58(66) {90/52(62) - 129/79(90)} mmHg
   RR: 21 (14 - 26) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 78.8 kg
   Height: 78 Inch
             Total In:
                                                                    570 mL
                                                                    407 mL
   PO:
                                                                    340 mL
                                                                    250 mL
   TF:
   IVF:
                                                                    230 mL
                                                                    157 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                    550 mL
   Urine:
                                                                    400 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    170 mL
                                                                   -143 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 6L
   SpO2: 93%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: Crackles at both bases, R>L
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, Rash: diffuse maculopapular over torso and neck, extending
   to lower legs and arms; all areas except face.  Rash is blanching.
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   329 K/uL
   11.1 g/dL
   101 mg/dL
   1.0 mg/dL
   30 mEq/L
   4.0 mEq/L
   10 mg/dL
   105 mEq/L
   142 mEq/L
   33.9 %
   13.6 K/uL
        [image002.jpg]
                            [**2104-12-5**]  12:43 PM
                            [**2104-12-6**]  03:02 AM
                            [**2104-12-7**]  04:01 AM
                            [**2104-12-10**]  05:10 AM
                             [**2104-12-11**]  06:02 AM
                             [**2104-12-15**]  04:39 AM
   WBC
   10.3
   5.8
   6.8
   12.4
   11.4
   13.6
   Hct
   34.7
   33.5
   33.5
   35.2
   34.5
   33.9
   Plt
   [**Telephone/Fax (2) 3249**]
   Cr
   1.3
   1.1
   1.0
   1.0
   0.9
   1.0
   Glucose
   90
   105
   104
   100
   90
   101
   Other labs: Differential-Neuts:81.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:9.0 %, Eos:4.0 %, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   55 yo M with h/o CML s/p MRD allo-SCT c/b GVHD of skin/gut on
   immunosuppression presenting with RSV bronchiolitis c/b hospital
   acquired pneumonia, now with acute hypoxia.
   .
   # Hypoxia: Improved since admission to the ICU, now on 6L NC.  Pt did
   not clearly improve after last admission so current presentation may be
   manifestation of prior RSV illness.  Chest CT with new foci of
   infiltrate in LUL and RUL although has been on broad-spectrum abx and
   antifungals.  PCP less likely given presentation although possible
   given prednisone use.
   - continue Linezolid (day #1 = [**2103-12-14**]) and Aztreonam (day #1 = [**2103-12-14**]);
   had received 7 days of Vanc/Cefepime prior to this.  Cipro started
   [**2103-12-14**] as well.
   - Continue ATC nebulizer treatment and prn albuterol
   - Continue to wean oxygen as needed
   - continue antifungals and acyclovir prophylaxis; was on pentamadine
   prior to admission for PCP prophylaxis
   [**Name Initial (PRE) **] Consider bronchoscopy for further characterization of infectious
   process, patient will likely need to be intubated for procedure.
   - Blood cultures with spikes, ECHO if cultures positive
   .
   # CML s/p transplant and GVHD: continue immunosuppression as per BMT
   team with prednisone, neoral and cellcept.  Picture not consistent with
   PCP. [**Name Initial (NameIs) 3160**]/galactomannan negative, and given posaconazole
   prophylaxis, unlikely aspergillus pneumonia.  ? if this rash is
   manifestation of GVHD as well vs. drug rash.
   - Dexamethasone s/s for oral GVHD.
   - Continue current prophylactic agents with posaconazole and acyclovir.
   Received inhaled pentamidine as outpatient.
   - Continue ursodiol.
   - discuss with BMT team utility of high dose steroids for possible GVHD
   of lung or skin
   - possible IVIG today per BMT
   .
   # Rash: Appears to be drug induced.  Appears to be new today.  Patient
   does not recall having had it prior, and nursing from BMT floor did not
   report it to nursing.  Cause includes drug-induced from cefepime
   (patient is allergic to pen VK) though he has been on this multiple
   times in the past.  Also could be secondary to IV contrast though from
   CTA yesterday as nursing does not think rash was present prior, though
   he has had IV contrast in the past as well.  No other apparent new
   drugs.  Possible GVHD as well.
   - Will continue to monitor
   - Symptomatic treatment if necessary including benadryl, H2 blocker,
   increase steroids
   .
   # Cardiomyopathy: continue outpatient metoprolol XL. Unlikely that his
   hypoxia is related to ACS as it improved with nebulizers.  No
   PND/orthopnea or other signs of decompensated heart failure.
   .
   # FEN: cardiac diet, follow/replete electrolytes, continue standing
   magnesium repletion.
   .
   # Communication: [**First Name8 (NamePattern2) 3094**] [**Last Name (NamePattern1) 3231**] (daughter) [**Telephone/Fax (1) 3232**]
   ICU Care
   Nutrition: cardiac diet
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2104-12-14**] 10:58 AM
   Prophylaxis:
   DVT:  Heparin SC
   Stress ulcer:  Omeprazole 20mg PO BID
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU level of care pending possible bronch today and O2
   requirements

2104-12-15 10:20:00 Physician Attending Progress Note
Chief Complaint: hypoxemic respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 yo CML s/p MUD SCT c/b GVHD. Admitted w/ RSV bronchiolitis and resp
   distress initially to [**Hospital Unit Name 10**] in late [**11-17**], transferred to floor, then
   re-admitted to [**Hospital Unit Name 10**] [**2104-12-14**] with progressive hypoxemia (4L NC to NRB) in
   the setting of relatively new pulm infiltrate. CT chest [**12-14**] showed
   progression of multifocal infiltrates. Per ID rec's had viral work-up
   sent, IVIg started.
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2104-12-14**] 10:58 AM
 BLOOD CULTURED - At [**2104-12-14**] 04:45 PM
   1x1 . Sample drawn from Hickmann
   No other events.
   History obtained from Patient
   Allergies:
   Penicillin V Potassium
   Pruritis;
   Last dose of Antibiotics:
   Linezolid - [**2104-12-15**] 04:00 AM
   Aztreonam - [**2104-12-15**] 08:00 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2104-12-14**] 08:40 PM
   Heparin Sodium (Prophylaxis) - [**2104-12-15**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-15**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.4
C (97.6
   HR: 90 (81 - 108) bpm
   BP: 83/55(60) {83/52(60) - 129/79(90)} mmHg
   RR: 18 (14 - 26) insp/min
   SpO2: 87%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 78.8 kg
   Height: 78 Inch
             Total In:
                                                                    570 mL
                                                                    696 mL
   PO:
                                                                    340 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    230 mL
                                                                    296 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                    550 mL
   Urine:
                                                                    400 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    170 mL
                                                                    146 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 87%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : L base)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, Rash: maculopap on trunk and neck
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.1 g/dL
   329 K/uL
   101 mg/dL
   1.0 mg/dL
   30 mEq/L
   4.0 mEq/L
   10 mg/dL
   105 mEq/L
   142 mEq/L
   33.9 %
   13.6 K/uL
        [image002.jpg]
                            [**2104-12-5**]  12:43 PM
                            [**2104-12-6**]  03:02 AM
                            [**2104-12-7**]  04:01 AM
                            [**2104-12-10**]  05:10 AM
                             [**2104-12-11**]  06:02 AM
                             [**2104-12-15**]  04:39 AM
   WBC
   10.3
   5.8
   6.8
   12.4
   11.4
   13.6
   Hct
   34.7
   33.5
   33.5
   35.2
   34.5
   33.9
   Plt
   [**Telephone/Fax (2) 3249**]
   Cr
   1.3
   1.1
   1.0
   1.0
   0.9
   1.0
   Glucose
   90
   105
   104
   100
   90
   101
   Other labs: Differential-Neuts:81.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:9.0 %, Eos:4.0 %, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Fluid analysis / Other labs: galactomannan- neg
   bD-glucan- neg
   Imaging: CT Chest ([**2104-12-14**])- L apical blebs, patchy ground glass
   throughout all lobes, dense infiltrates B bases
   Microbiology: Blood- pending
   Sputum- nl flora
   Rapid viral Ag- neg
   CMV VL- pending
   Assessment and Plan
   HYPOXEMIA -- Attributed to new pneumonia on background of RSV
   infection. r/o for PE on [**12-14**] CT. DDx includes recurr bact pneumonia,
   PCP or fungal process. Also consider GVHD. Plan continue supplemental
   oxygen, monitor RR, maintain SaO2 > 90%, continue empirical
   antimicrobials.  Provide beta-agonist.  Check on next scheduled PcP
   [**Name Initial (PRE) 3261**]. Consider bronchoscopy this afternoon. Low threshold for
   intubation in event of clinical decline.
   RSV infection -- s/p antibody treatment.
   RASH -- new development;  appears drug-related, and currently receiving
   several potential offenders, including contrast dye and cefepime
   CML s/p SCT c/b GVHD
 continue current level of care. Will d/w BMT
   service re: IvIg therapy and poss modification of steroid regimem
   GI GVHD -- continue oral swish and spit.
   NUTRITIONAL SUPPORT
 encourage PO with supplements. Keep npo for poss
   bronch this pm
   DEPRESSED MOOD -- consider pharmacological  intervention.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Tunneled (Hickman) Line - [**2104-12-14**] 10:58 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes

2104-12-16 06:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt was given IVIG per heme/onc for his hypogammaglobulinemia.
   Bronchoscopy not performed yesterday is scheduled for today. Pt was
   also started on flagyl for aneorobic coverage per ID recs. Yesterday am
   his rash was found to have spread to his legs and become more confluent
   on his chest.
   Allergies:
   Penicillin V Potassium
   Pruritis;
   Last dose of Antibiotics:
   Aztreonam - [**2104-12-16**] 12:03 AM
   Acyclovir - [**2104-12-16**] 12:04 AM
   Metronidazole - [**2104-12-16**] 12:04 AM
   Linezolid - [**2104-12-16**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-12-16**] 12:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-16**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 88 (81 - 103) bpm
   BP: 99/53(65) {77/42(52) - 114/75(83)} mmHg
   RR: 17 (15 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 78.8 kg
   Height: 78 Inch
             Total In:
                                                                  1,479 mL
                                                                    165 mL
   PO:
                                                                    795 mL
             TF:
   IVF:
                                                                    484 mL
                                                                    165 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                    900 mL
                                                                    400 mL
   Urine:
                                                                    900 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    579 mL
                                                                   -235 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: Crackles at both bases, R>L
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, Rash: diffuse maculopapular over torso and neck, extending
   to lower legs and arms; all areas except face.  Rash is blanching.
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   293 K/uL
   10.6 g/dL
   110 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.3 mEq/L
   14 mg/dL
   106 mEq/L
   142 mEq/L
   32.0 %
   9.0 K/uL
        [image002.jpg]
                            [**2104-12-5**]  12:43 PM
                            [**2104-12-6**]  03:02 AM
                            [**2104-12-7**]  04:01 AM
                            [**2104-12-10**]  05:10 AM
                             [**2104-12-11**]  06:02 AM
                             [**2104-12-15**]  04:39 AM
                             [**2104-12-16**]  05:23 AM
   WBC
   10.3
   5.8
   6.8
   12.4
   11.4
   13.6
   9.0
   Hct
   34.7
   33.5
   33.5
   35.2
   34.5
   33.9
   32.0
   Plt
   [**Telephone/Fax (2) 3249**]
   293
   Cr
   1.3
   1.1
   1.0
   1.0
   0.9
   1.0
   1.0
   Glucose
   90
   105
   104
   100
   90
   101
   110
   Other labs: PT / PTT / INR:12.7/45.1/1.1, Differential-Neuts:81.0 %,
   Band:0.0 %, Lymph:5.0 %, Mono:9.0 %, Eos:4.0 %, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   55 yo M with h/o CML s/p MRD allo-SCT c/b GVHD of skin/gut on
   immunosuppression presenting with RSV bronchiolitis c/b hospital
   acquired pneumonia, now with acute hypoxia.
   .
   # Hypoxia: Improved since admission to the ICU, now on 6L NC.  Pt did
   not clearly improve after last admission so current presentation may be
   manifestation of prior RSV illness.  Chest CT with new foci of
   infiltrate in LUL and RUL although has been on broad-spectrum abx and
   antifungals.  PCP less likely given presentation although possible
   given prednisone use.
   - continue Linezolid (day #1 = [**2103-12-14**]) and Aztreonam (day #1 = [**2103-12-14**]);
   had received 7 days of Vanc/Cefepime prior to this.  Cipro started
   [**2103-12-14**] as well.
   - Continue ATC nebulizer treatment and prn albuterol
   - Continue to wean oxygen as needed
   - continue antifungals and acyclovir prophylaxis; was on pentamadine
   prior to admission for PCP prophylaxis
   [**Name Initial (PRE) **] Consider bronchoscopy for further characterization of infectious
   process, patient will likely need to be intubated for procedure.
   - Blood cultures with spikes, ECHO if cultures positive
   .
   # CML s/p transplant and GVHD: continue immunosuppression as per BMT
   team with prednisone, neoral and cellcept.  Picture not consistent with
   PCP. [**Name Initial (NameIs) 3160**]/galactomannan negative, and given posaconazole
   prophylaxis, unlikely aspergillus pneumonia.  ? if this rash is
   manifestation of GVHD as well vs. drug rash.
   - Dexamethasone s/s for oral GVHD.
   - Continue current prophylactic agents with posaconazole and acyclovir.
   Received inhaled pentamidine as outpatient.
   - Continue ursodiol.
   - discuss with BMT team utility of high dose steroids for possible GVHD
   of lung or skin
   - possible IVIG today per BMT
   .
   # Rash: Appears to be drug induced.  Appears to be new today.  Patient
   does not recall having had it prior, and nursing from BMT floor did not
   report it to nursing.  Cause includes drug-induced from cefepime
   (patient is allergic to pen VK) though he has been on this multiple
   times in the past.  Also could be secondary to IV contrast though from
   CTA yesterday as nursing does not think rash was present prior, though
   he has had IV contrast in the past as well.  No other apparent new
   drugs.  Possible GVHD as well.
   - Will continue to monitor
   - Symptomatic treatment if necessary including benadryl, H2 blocker,
   increase steroids
   .
   # Cardiomyopathy: continue outpatient metoprolol XL. Unlikely that his
   hypoxia is related to ACS as it improved with nebulizers.  No
   PND/orthopnea or other signs of decompensated heart failure.
   .
   # FEN: cardiac diet, follow/replete electrolytes, continue standing
   magnesium repletion.
   .
   # Communication: [**First Name8 (NamePattern2) 3094**] [**Last Name (NamePattern1) 3231**] (daughter) [**Telephone/Fax (1) 3232**]
   ICU Care
   Nutrition: cardiac diet
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2104-12-14**] 10:58 AM
   Prophylaxis:
   DVT:  Heparin SC
   Stress ulcer:  Omeprazole 20mg PO BID
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU level of care pending possible bronch today and O2
   requirements

2104-12-16 10:36:00 Physician Attending Progress Note
Chief Complaint: PNA, RSV Bronchiolitis, Hypoxia
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   IV IG last PM, started on Flagyl. Rash is spreading despite stopping
   Cefopime, continuing on 6 liters. WBC down significantly. Afebrile last
   24 hrs
   History obtained from Patient
   Allergies:
   Penicillin V Potassium
   Pruritis;
   Last dose of Antibiotics:
   Linezolid - [**2104-12-16**] 04:00 AM
   Aztreonam - [**2104-12-16**] 08:00 AM
   Acyclovir - [**2104-12-16**] 08:00 AM
   Metronidazole - [**2104-12-16**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-12-16**] 08:00 AM
   Omeprazole (Prilosec) - [**2104-12-16**] 08:00 AM
   Other medications:
   nebs q6, prednisone, hep SQ, dexamethasone swish and spit, MVI, Mag OX,
   Vit D, CaCO3, Vit C, Ursadiol, Ompeprazole, Cellcept, Folic A,
   Posiconizole, Cyclosporin, Acyclovir
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-16**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 96 (84 - 103) bpm
   BP: 99/54(64) {77/42(52) - 118/78(86)} mmHg
   RR: 17 (15 - 23) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 78.8 kg
   Height: 78 Inch
             Total In:
                                                                  1,479 mL
                                                                    303 mL
   PO:
                                                                    795 mL
             TF:
   IVF:
                                                                    484 mL
                                                                    303 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                    900 mL
                                                                    400 mL
   Urine:
                                                                    900 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    579 mL
                                                                    -97 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g, distant HS
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Diminished:
   throughout)
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, diffuse maculopap rash more confluent today
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.6 g/dL
   293 K/uL
   110 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.3 mEq/L
   14 mg/dL
   106 mEq/L
   142 mEq/L
   32.0 %
   9.0 K/uL
        [image002.jpg]
                            [**2104-12-5**]  12:43 PM
                            [**2104-12-6**]  03:02 AM
                            [**2104-12-7**]  04:01 AM
                            [**2104-12-10**]  05:10 AM
                             [**2104-12-11**]  06:02 AM
                             [**2104-12-15**]  04:39 AM
                             [**2104-12-16**]  05:23 AM
   WBC
   10.3
   5.8
   6.8
   12.4
   11.4
   13.6
   9.0
   Hct
   34.7
   33.5
   33.5
   35.2
   34.5
   33.9
   32.0
   Plt
   [**Telephone/Fax (2) 3249**]
   293
   Cr
   1.3
   1.1
   1.0
   1.0
   0.9
   1.0
   1.0
   Glucose
   90
   105
   104
   100
   90
   101
   110
   Other labs: PT / PTT / INR:12.7/45.1/1.1, Differential-Neuts:81.0 %,
   Band:0.0 %, Lymph:5.0 %, Mono:9.0 %, Eos:4.0 %, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   HYPOXEMIA -- Attributed to new pneumonia on background of RSV
   infection. r/o for PE on [**12-14**] CT.
   -given clinical improvement favor bacterial nosocomial pna most likely;
   complete 8d course
   -encourage ambulation
   -defer bronch for now
   RSV infection -- s/p antibody treatment.
   RASH --  appears drug-related, and currently receiving several
   potential offenders, including contrast dye and cefepime
   CML s/p SCT c/b GVHD
 continue current level of care. Will d/w BMT
   service re: IvIg therapy and poss modification of steroid regimen
   GI GVHD -- continue oral swish and spit.
   NUTRITIONAL SUPPORT
 encourage PO with supplements.
   DEPRESSED MOOD -- consider pharmacological  intervention.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Tunneled (Hickman) Line - [**2104-12-14**] 10:58 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 45 minutes
   Patient is critically ill

2104-12-17 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - O2 weaned down to 4L
   - no broncho done as clinically improving, likely has HAP and is
   responding to treatment
   Allergies:
   Penicillin V Potassium
   Pruritis;
   Last dose of Antibiotics:
   Linezolid - [**2104-12-16**] 04:00 AM
   Aztreonam - [**2104-12-17**] 12:08 AM
   Acyclovir - [**2104-12-17**] 12:08 AM
   Metronidazole - [**2104-12-17**] 12:08 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2104-12-16**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2104-12-17**] 12:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-17**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 96 (85 - 104) bpm
   BP: 114/71(78) {87/53(61) - 121/79(97)} mmHg
   RR: 16 (15 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 78.8 kg
   Height: 78 Inch
             Total In:
                                                                    900 mL
                                                                    176 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                    540 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                    575 mL
                                                                    150 mL
   Urine:
                                                                    575 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    325 mL
                                                                     26 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: Diminshed BS noted diffusely over lung fields,
   Crackles at right base
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, Rash: diffuse maculopapular over torso, back and neck,
   extending to lower legs and arms; all areas except face.  Rash is
   blanching.
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   303 K/uL
   10.7 g/dL
   89 mg/dL
   1.0 mg/dL
   25 mEq/L
   3.5 mEq/L
   12 mg/dL
   107 mEq/L
   141 mEq/L
   30.8 %
   7.8 K/uL
        [image002.jpg]
                            [**2104-12-5**]  12:43 PM
                            [**2104-12-6**]  03:02 AM
                            [**2104-12-7**]  04:01 AM
                            [**2104-12-10**]  05:10 AM
                             [**2104-12-11**]  06:02 AM
                             [**2104-12-15**]  04:39 AM
                             [**2104-12-16**]  05:23 AM
                             [**2104-12-17**]  05:06 AM
   WBC
   10.3
   5.8
   6.8
   12.4
   11.4
   13.6
   9.0
   7.8
   Hct
   34.7
   33.5
   33.5
   35.2
   34.5
   33.9
   32.0
   30.8
   Plt
   [**Telephone/Fax (3) 3249**]
   293
   303
   Cr
   1.3
   1.1
   1.0
   1.0
   0.9
   1.0
   1.0
   1.0
   Glucose
   90
   105
   104
   100
   90
   101
   110
   89
   Other labs: PT / PTT / INR:12.9/47.8/1.1, Differential-Neuts:81.0 %,
   Band:0.0 %, Lymph:5.0 %, Mono:9.0 %, Eos:4.0 %, Ca++:8.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   55 yo M with h/o CML s/p MRD allo-SCT c/b GVHD of skin/gut on
   immunosuppression presenting with RSV bronchiolitis c/b hospital
   acquired pneumonia, now with acute hypoxia.
   .
   # Hypoxia: Improved since admission to the ICU, now on 6L NC.  Pt did
   not clearly improve after last admission so current presentation may be
   manifestation of prior RSV illness.  Portable chest x-ray performed
   yesterday showed pneumonia to be resolving. Pt has been afebrile and
   his leukocytosis appears to be improving on his current antibiotic
   regimen. Will defer from bronchoscopy given his current improvement in
   clinical status on his current antibiotics. Will reimage tomorrow
   morning to assess PNA progress.
    - continue Linezolid (day #1 = [**2103-12-14**]) and Aztreonam (day #1 =
   [**2103-12-14**]); had received 7 days of Vanc/Cefepime prior to this.  Cipro
   started [**2103-12-14**] as well.
   - Repeat CXR Port in the AM
   - Continue ATC nebulizer treatment and prn albuterol
   - Continue to wean oxygen as needed
   - continue antifungals and acyclovir prophylaxis; was on pentamadine
   prior to admission for PCP prophylaxis
   [**Name Initial (PRE) **] [**Name9 (PRE) 229**] cultures with spikes, ECHO if cultures positive
   .
   # CML s/p transplant and GVHD: Pt received IVIG yesterday per heme/onc
   recommendations.  No additional recs noted this morning with continue
   current immunosuppression regimen.
   - Dexamethasone s/s for oral GVHD.
   - Continue current prophylactic agents with posaconazole and acyclovir.
   Received inhaled pentamidine as outpatient.
   - Continue ursodiol.
   .
   # Rash: Appears to be drug induced, may be related to Cefepime as he
   does have an allergy history to PCN V however he has received Cefepime
   in the past without any reactions.   Appears to be new today.  Patient
   does not recall having had it prior, and nursing from BMT floor did not
   report it to nursing.  Cause includes drug-induced from cefepime
   (patient is allergic to pen VK) though he has been on this multiple
   times in the past.  Also could be secondary to IV contrast though from
   CTA yesterday as nursing does not think rash was present prior, though
   he has had IV contrast in the past as well.  No other apparent new
   drugs.  Possible GVHD as well.
   - Will continue to monitor
   - Symptomatic treatment if necessary including benadryl, H2 blocker,
   increase steroids
   .
   # Cardiomyopathy: continue outpatient metoprolol XL. Unlikely that his
   hypoxia is related to ACS as it improved with nebulizers.  No
   PND/orthopnea or other signs of decompensated heart failure.
   .
   # FEN: cardiac diet, follow/replete electrolytes, continue standing
   magnesium repletion.
   .
   # Communication: [**First Name8 (NamePattern2) 3094**] [**Last Name (NamePattern1) 3231**] (daughter) [**Telephone/Fax (1) 3232**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2104-12-14**] 10:58 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2104-12-17 09:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   O2 weaned to 3L from 6LNC yest. This AM no SOB, no complaints.
   Allergies:
   Penicillin V Potassium
   Pruritis;
   Last dose of Antibiotics:
   Linezolid - [**2104-12-16**] 04:00 AM
   Aztreonam - [**2104-12-17**] 08:39 AM
   Acyclovir - [**2104-12-17**] 08:40 AM
   Metronidazole - [**2104-12-17**] 08:40 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-12-17**] 08:40 AM
   Omeprazole (Prilosec) - [**2104-12-17**] 08:42 AM
   Other medications:
   Atrovent, Albuterol, Prednisone, MVI, CaHCO3, ursodiol, Cellcept,
   folate, posaconazole, cyclosporine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-17**] 09:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.9
   HR: 104 (85 - 104) bpm
   BP: 104/66(76) {87/53(61) - 121/79(97)} mmHg
   RR: 19 (15 - 25) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76 kg (admission): 78.8 kg
   Height: 78 Inch
             Total In:
                                                                    900 mL
                                                                    294 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                    540 mL
                                                                    294 mL
   Blood products:
   Total out:
                                                                    575 mL
                                                                    500 mL
   Urine:
                                                                    575 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    325 mL
                                                                   -206 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : b bases L > R)
   Skin:  Not assessed, Rash: resolving maculopap rash
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.7 g/dL
   303 K/uL
   89 mg/dL
   1.0 mg/dL
   25 mEq/L
   3.5 mEq/L
   12 mg/dL
   107 mEq/L
   141 mEq/L
   30.8 %
   7.8 K/uL
        [image002.jpg]
                            [**2104-12-5**]  12:43 PM
                            [**2104-12-6**]  03:02 AM
                            [**2104-12-7**]  04:01 AM
                            [**2104-12-10**]  05:10 AM
                             [**2104-12-11**]  06:02 AM
                             [**2104-12-15**]  04:39 AM
                             [**2104-12-16**]  05:23 AM
                             [**2104-12-17**]  05:06 AM
   WBC
   10.3
   5.8
   6.8
   12.4
   11.4
   13.6
   9.0
   7.8
   Hct
   34.7
   33.5
   33.5
   35.2
   34.5
   33.9
   32.0
   30.8
   Plt
   [**Telephone/Fax (2) 3249**]
   293
   303
   Cr
   1.3
   1.1
   1.0
   1.0
   0.9
   1.0
   1.0
   1.0
   Glucose
   90
   105
   104
   100
   90
   101
   110
   89
   Other labs: PT / PTT / INR:12.9/47.8/1.1, Differential-Neuts:81.0 %,
   Band:0.0 %, Lymph:5.0 %, Mono:9.0 %, Eos:4.0 %, Ca++:8.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR- subtle patchy infiltrates
   Microbiology: CMV- pending
   galactomannan- pending
   Assessment and Plan
   NOSOCOMIAL PNEUMONIA-- background of RSV infection, clinically
   resolving. r/o for PE on [**12-14**] CT.
   -given clinical improvement favor bacterial nosocomial pna most likely;
   complete 8d course (through [**12-21**])
   -encourage ambulation
   RSV infection -- s/p antibody treatment.
   RASH --  appears drug-related, and currently receiving several
   potential offenders, including contrast dye and cefepime
   CML s/p SCT c/b GVHD
 continue current level of care. Will d/w BMT
   service re: IvIg therapy and poss modification of steroid regimen
   -on immunosuppressive regimen per BMT svce. ? need to follow
   cyclosporine levels?
   GI GVHD -- continue oral swish and spit.
   NUTRITIONAL SUPPORT
 encourage PO with supplements.
   DEPRESSED MOOD -- consider pharmacological  intervention.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Tunneled (Hickman) Line - [**2104-12-14**] 10:58 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes